US09371280B2
In a manner similar to the method described in Example 14, 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (prepared as described in US20100152190A1) was reacted with (2S,3S,4S,5R)-benzyl 3,4,5,6-tetrahydroxytetrahydro-2H-pyran-2-carboxylate (prepared according to the procedure reported in Bowkett et al. Tetrahedron 2007, 63, 7596-7605) to give (2S,3S,4S,5R,6S)-benzyl 6-(4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoyloxy)-3,4,5-trihydroxytetrahydro-2H-pyran-2-carboxylate.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | (2S,3S,4S,5R)-benzyl 3,4,5,6-tetrahydroxytetrahydro-2H-pyran-2-carboxylate | O[C@@H]1[C@H](OC([C@@H]([C@H]1O)O)O)C(=O)OCC1=CC=CC=C1 | C13H16O7
product | (2S,3S,4S,5R,6S)-benzyl 6-(4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoyloxy)-3,4,5-trihydroxytetrahydro-2H-pyran-2-carboxylate | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)C(=O)OCC2=CC=CC=C2)O)O)O)C=C1)OC)F | C44H43Cl2F2N3O10
